US04704462
Step D: Preparation of 3a-Methoxy-3-(3,4,5-trimethoxyphenyl)-5-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran
Lead tetraacetate (200 mg) was added to a solution of 6-hydroxy-3-(3,4,5-trimethoxyphenyl)-5-propyl-2,3-dihydrobenzofuran (100 mg) in dry methanol (10 ml), and the mixture was stirred at room temperature for 1 hour. The solution was evaporated to a residue, which was put on a flash column of silica gel and eluted with hexane-ethyl acetate (4:1, v/v). The title compound was isolated as a mixture of epimers.

reactant | Lead tetraacetate | 200 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 6-hydroxy-3-(3,4,5-trimethoxyphenyl)-5-propyl-2,3-dihydrobenzofuran | 100 mg | OC1=CC2=C(C(CO2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1CCC | C20H24O5
solvent | methanol | 10 ml | CO | CH4O
product | 3a-Methoxy-3-(3,4,5-trimethoxyphenyl)-5-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran | COC12C(COC1=CC(C(=C2)CCC)=O)C2=CC(=C(C(=C2)OC)OC)OC | C21H26O6
